US04220647
N,N-diphenylaminoacetaldehyde diethyl acetal (3.5 g) and 3,4-dihydroxyphenethylamine hydrochloride (2.1 g) were added to a mixture of n-butyl alcohol (35 ml), water (5 ml) and conc. hydrochloric acid (2 drops) and then the mixture was refluxed for 6.5 hours in a stream of nitrogen. The reaction mixture was concentrated to dryness and the residue was washed with acetone and collected by filtration to recover the starting material, 3,4-dihydroxyphenethylamine (1.2 g). The filtrate was concentrated to give 1-(N,N-diphenylaminomethyl)6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (1.5 g), oil.

reactant | N,N-diphenylaminoacetaldehyde diethyl acetal | 3.5 g | C(C)OC(CN(C1=CC=CC=C1)C1=CC=CC=C1)OCC | C18H23NO2
reactant | 3,4-dihydroxyphenethylamine hydrochloride | 2.1 g | Cl.OC=1C=C(CCN)C=CC1O
reactant | n-butyl alcohol | 35 ml | C(CCC)O | C4H10O
catalyst | hydrochloric acid | 2 drops | Cl | ClH
solvent | water | 5 ml | O | H2O
product | 1-(N,N-diphenylaminomethyl)6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 1.5 g | Cl.C1(=CC=CC=C1)N(C1=CC=CC=C1)CC1NCCC2=CC(=C(C=C12)O)O | InChI=1S/C22H22N2O2.ClH/c25-21-13-16-11-12-23-20(19(16)14-22(21)26)15-24(17-7-3-1-4-8-17)18-9-5-2-6-10-18;/h1-10,13-14,20,23,25-26H,11-12,15H2;1H
